US08372823B2
Methyl 6-(2-(3-(4′-(morpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate (15 mg, 0.029 mmol) was dissolved in THF/H2O (3:2, 2 mL) and LiOH (2 mg, 0.09 mmol) was added. The reaction solution was stirred at room temperature under an atmosphere of Ar for 25 min before the addition of aqueous 1 N HCl to pH 4. The reaction solution was diluted with CH2Cl2 and the organic and aqueous layers were separated. The aqueous layer was made basic to pH 8 with the addition of saturated aqueous NaHCO3 and extracted with CH2Cl2. The organic phases were combined, dried over Na2SO4, and concentrated in vacuo. The crude product was purified by tritration in ether to provide 6-(2-(3-(4′-(morpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylic acid as a white solid (10 mg, 69%): 1H NMR (CDCl3, 600 MHz) δ 8.20 (d, 1H, J=7.1 Hz), 8.06 (s, 1H), 8.03-7.99 (m, 2H), 7.54 (d, 2H, J=7.7 Hz), 7.49-7.47 (m, 4H), 7.32 (d, 2H, J=7.9 Hz), 3.89 (s, 6H), 3.50 (t, 2H, J=7.4 Hz), 3.15 (t, 2H, J=7.5 Hz), 2.84 (s, 4H); 13C NMR (CDCl3, 150 MHz) δ 187.3, 166.0, 157.4, 152.2, 149.4, 145.5, 141.1, 139.7, 138.9, 138.5, 130.7, 128.9, 128.0, 127.2, 127.2, 124.4, 123.2, 65.5, 61.9, 52.5, 40.6, 29.3; HR ESI-TOF m/z 498.2020 (M+H+, C29H27N3O5, requires 498.2023).

reactant | Methyl 6-(2-(3-(4′-(morpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 0.029 mmol, 15 mg | O1CCN(CC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C30H29N3O5
reactant | LiOH | 0.09 mmol, 2 mg | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF H2O | 2 mL | C1CCOC1.O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-(2-(3-(4′-(morpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylic acid | 10 mg, 69% | O1CCN(CC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)O | C29H27N3O5
